US04155999
A suspension of 21.6 g (0.4 mol) of sodium methylate, 19.4 g (0.2 mol) of acetamidine hydrochloride, 34.4 g (0.2 mol) of pivaloylacetic acid ethyl ester and 100 ml of methanol was heated for 10 hours under reflux and then evaporated, and the residue was taken up in 350 ml of water. Concentrated hydrochloric acid was added to the aqueous solution, while cooling with ice, to a pH of about 6, and the mixture was then extracted twice with 200 ml of methylene chloride each time. The combined methylene chloride extracts were dried over sodium sulphate and then concentrated. 21 g (63% of theory) of 2-methyl-4-hydroxy-6-tert.-butyl-pyrimidine were obtained in the form of colorless crystals of melting point 131°-132° C.

reactant | sodium methylate | 0.4 mol, 21.6 g | C[O-].[Na+]
reactant | acetamidine hydrochloride | 0.2 mol, 19.4 g | Cl.C(C)(=N)N
reactant | pivaloylacetic acid ethyl ester | 0.2 mol, 34.4 g | C(C)OC(CC(C(C)(C)C)=O)=O | C9H16O3
solvent | methanol | 100 ml | CO | CH4O
product | 2-methyl-4-hydroxy-6-tert.-butyl-pyrimidine | 21 g, 63% | CC1=NC(=CC(=N1)O)C(C)(C)C | C9H14N2O
